US04329465
Step C: Preparation of 12-methyl-7,12-dihydrodibenzo[a,d]cyclooctene
12-Methyl-5,6,7,12-tetrahydrodibenzo[a,d]cycloocten-6-ol (2.7 g., 0.011 mole) in 50 ml. of pyridine was treated with 15 ml. of phosphorous oxychloride. The mixture was heated at reflux for 45 minutes, cooled, and poured carefully into 600 ml. of stirred ice water. The resulting mixture was extracted three times with ether, and the combined ether layers were washed once with water, once with 1 N hydrochloric acid, and twice with water. The washed ether solution was dried over potassium carbonate, filtered, and evaporated in vacuo to give 1.9 g. of colorless oil.

reactant | 12-Methyl-5,6,7,12-tetrahydrodibenzo[a,d]cycloocten-6-ol | 0.011 mole, 2.7 g | CC1C2=C(CC(CC3=C1C=CC=C3)O)C=CC=C2 | C17H18O
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 12-methyl-7,12-dihydrodibenzo[a,d]cyclooctene | CC1C2=C(C=CCC3=C1C=CC=C3)C=CC=C2 | C17H16
